US08420629B2
Step 3. 3-(benzyloxy)cyclobutanone
([3-(methylsulfinyl)-3-(methylthio)cyclobutyl]oxymethyl)benzene (2.4 g, 0.0089 mol) was dissolved in Et2O (40 mL) and 35% perchloric acid (1.8 mL) was added. The resulting mixture was stirred at rt overnight. To the reaction mixture was added solid NaHCO3 and MgSO4 and stirred for a while. The insoluble solid was filtered off. The filtrate was concentrated and purified with combiflash (silica gel, 100% dichloromethane) to give the desired product (0.7 g) as light yellow oil. LCMS calculated for C11H13O2(M+H)+: 177.1. Found: 177.3.

reactant | ([3-(methylsulfinyl)-3-(methylthio)cyclobutyl]oxymethyl)benzene | 0.0089 mol, 2.4 g | CS(=O)C1(CC(C1)OCC1=CC=CC=C1)SC | C13H18O2S2
reactant | perchloric acid | 1.8 mL | Cl(=O)(=O)(=O)O | ClHO4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | Et2O | 40 mL | CCOCC | C4H10O
product | 3-(benzyloxy)cyclobutanone | 0.7 g | C(C1=CC=CC=C1)OC1CC(C1)=O | C11H12O2
